US07994164B2
(E)-2-((3,8-difluorodibenzo[b,e]oxepin-11(6H)-ylidene)methyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
To a mixture of (E)-11-(bromomethylene)-3,8-difluoro-6,11-dihydrodibenzo[b,e]oxepine (90.0 mmol, 29.0 g) and bis(pinacolato)diboron (117 mmol, 29.5 g) in 1,4-dioxane (295 mL), add potassium acetate (144 mmol, 14.1 g), tricyclohexyl phosphine (11.7 mmol, 3.28 g), and Pd2(dba)3 (4.14 mmol, 3.80 g). Flush by bubbling nitrogen through the mixture, then heat at 65° C. overnight. After cooling to room temperature, filter through a pad of diatomaceous earth and wash with ethyl acetate. Concentrate the filtrate in vacuo to obtain a brown oil. Dilute the oil with methanol (180 mL) and swirl the resulting mixture for 1.5 h on a rotory evaporator without vacuum, causing a brown precipitate to form. Collect the precipitate by vacuum filtration to obtain the title compound as a brown solid (24.2 g, 73%). 1H NMR (300 MHz, CDCl3) δ 7.35 (dd, J=8.8, 6.7 Hz, 1H), 7.29-7.24 (m, 1H), 7.05-6.93 (m, 2H), 6.65-6.59 (m, 1H), 6.49 (dd, J=10.2, 2.6 Hz, 1H), 5.99 (s, 1H), 5.15 (br s, 2H), 1.16 (s, 12H).

reactant | (E)-11-(bromomethylene)-3,8-difluoro-6,11-dihydrodibenzo[b,e]oxepine | 90.0 mmol, 29.0 g | Br\C=C/1\C2=C(OCC3=C1C=CC(=C3)F)C=C(C=C2)F | C15H9BrF2O
reactant | bis(pinacolato)diboron | 117 mmol, 29.5 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 144 mmol, 14.1 g | C(C)(=O)[O-].[K+]
reactant | tricyclohexyl phosphine | 11.7 mmol, 3.28 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | 1,4-dioxane | 295 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 180 mL | CO | CH4O
catalyst | Pd2(dba)3 | 4.14 mmol, 3.80 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (E)-2-((3,8-difluorodibenzo[b,e]oxepin-11(6H)-ylidene)methyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 24.2 g, 73% | FC=1C=CC\2=C(OCC3=C(/C2=C\B2OC(C(O2)(C)C)(C)C)C=CC(=C3)F)C1 | C21H21BF2O3
